US07256305B2
In a 50 mL-volumetric autoclave were added deaerated methanol (5 mL) and t-butanol (3 mL), and thereto were added 4-aminopyridine (47 mg, 0.5 mmol) and (S)-epichlorohydrin (1.9 g, 20 mmol, >99% ee). Then to the mixture was added crystalline dicobaltoctacarbonyl complex (171 mg, 0.5 mmol). After covering the autoclave with a cap, carbon monoxide (1 MPa) was introduced therein and the mixture was reacted at 40° C. for 5 hours. After cooling to room temperature, the solvent was removed in vacuo. The residue was subjected to Kugelrohr distillation to give (S)-4-chloro-3-hydroxybutanoic acid methyl ester (2.8 g, 92%, >99% ee) as a colorless oil.

reactant | methanol | 5 mL | CO | CH4O
reactant | 4-aminopyridine | 0.5 mmol, 47 mg | NC1=CC=NC=C1 | C5H6N2
reactant | (S)-epichlorohydrin | 20 mmol, 1.9 g | C(Cl)[C@@H]1CO1 | C3H5ClO
reactant | carbon monoxide | [C]=O | CO
reactant | t-butanol | 3 mL | C(C)(C)(C)O | C4H10O
product | (S)-4-chloro-3-hydroxybutanoic acid methyl ester | 2.8 g, 92% | COC(C[C@@H](CCl)O)=O | C5H9ClO3
